Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
head laceration, fall 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ male on Eliquis for afib who
presents to ___ on ___ with a mild TBI.
Patient was bending over to pick up a box when he fell over and
struck his forehead. No LOC. Current c/o mild headache. Denies
visual changes, but endorses some upper back pain. NCHCT
concerning for an acute right SDH with approximately 4mm of MLS.
Neurosurgery called to evaluate.
 
Past Medical History:
HTN, HLD, PAD, AAA s/p stent placement, atrial fibrillation,
osteoarthritis bilateral knees 
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
At ED presentation:

Physical Exam:
O: T 97; HR 80; 177/80; RR 16; SpO2 94% RA

GCS at the scene: Unknown
GCS upon Neurosurgery Evaluation: 15       
Time of evaluation: 2200 on ___

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: in c-collar, Laceration to left forehead 
Neck: Supple
Extrem: Warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,3mm to 2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout except right delt 
___
due to previous shoulder impingement per patient. No pronator
drift

Sensation: Intact to light touch

Handedness  Right

=
=
=
=
=
=
=
=
=
=
=
=
================================================================

At discharge:

General:
[x]AVSS 
T: 97.8 HR ___  BP  ___   RR ___   O2 Sat 90-94% 
RA
  

Drains: none

Bowel Regimen: [x]Yes [ ]No    Last BM: PTA

Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 3-2mm bilat

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5     4      5        5      5
Left 5         5      5   5      5

IPQuadHamATEHLGast

Previous right shoulder injury/impingement

[X]Sensation intact to light touch

Wound: 
Frontal laceration minimal staining to dressing. 

 
Pertinent Results:
CT C-SPINE W/O CONTRAST Study Date of ___ 8:32 ___ 
IMPRESSION: 
  
1. No acute fracture or traumatic malalignment of the cervical 
spine. 
2. Moderate to severe multilevel cervical spondylosis. 
3. Moderate to severe emphysema in the lung apices. 

CT HEAD W/O CONTRAST Study Date of ___ 8:32 ___ 
IMPRESSION: 
  
  
1. Acute subdural hemorrhage overlying the right posterior 
parietal lobe with 
a more subacute component overlying the right frontal and 
anterior parietal 
lobes.  There is approximately 4 mm of right to left midline 
shift.  No 
evidence of transtentorial herniation. 
2. Midline frontal soft tissue scalp swelling without acute 
fracture. 
3. Chronic microangiopathic and involutional changes. 

CT HEAD W/O CONTRAST Study Date of ___ 5:44 AM 
IMPRESSION: 
  
  
1. Stable appearance of multifocal subdural hemorrhage 
predominantly in the 
posterior right parietal lobe.  Additional regions in the right 
frontal and 
falx are also unchanged.  No new evidence of hemorrhage. 
2. Interval increase in leftward midline shift, up to 7 mm 
without evidence of 
herniation. 

 
Brief Hospital Course:
___ is a ___ male on Eliquis for afib who 
presented to ___ on ___ with a mild TBI. 
Patient was bending over to pick up a box when he fell over and 
struck his forehead. No LOC. In ED, c/o mild headache and 
forehead laceration. Denies visual changes, but endorses some 
upper back pain. NCHCT concerning for an acute right SDH with 
approximately 4mm of MLS. GCS 15 at time of neurosurgical 
evaluation. Neurosurgery admitted Mr ___ for TBI 
monitoring and started Keppra 500mg BID for a total of seven 
days. All anticoagulating medication was held on arrival with 
plan to restart home Eliquis and Cilostazol in 7 days. He 
received a repeat NCHCT at ___ the following morning that was 
overall stable. At time of discharge, he remains neurologically 
intact, GCS 15. Mr. ___ was discharged in good condition 
home on ___ ___nd nursing services for wound care of 
his forehead laceration.
 
Medications on Admission:
Eliquis 5mg BID   
Metoprolol succinate 12.5mg daily 
Simvastatin 40mg daily 
Cilostazol 50mg BID  
AREDS OTC for macular degeneration 
Ammonium lactate cream 12% cream 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 (One) tablet(s) by mouth twice a day 
Disp #*12 Tablet Refills:*0 
3.  Senna 17.2 mg PO HS  
4.  Metoprolol Succinate XL 12.5 mg PO DAILY  
5.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
Right Acute/Subacute Subdural Hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Eliquis, 
Cilostazol, Aspirin, Ibuprofen, Plavix, Coumadin) for 7 days. 
•       You may restart your home Eliquis and Cilostazol on 
___.
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication twice a day for 7 days. It is important that you take 
this medication consistently and on time. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___